US09062032B2
A mixture of 1.9 g of ethyl 2-{[{2-[(4-tert-butoxy-4-oxobutanoyl)(methyl)amino]ethyl}(pentan-3-yl)amino]methyl}isonicotinate, 8.2 mL of a 1.0 M aqueous sodium hydroxide solution, 8.0 mL of methanol, and 16 mL of THF was stirred overnight at room temperature. The mixture was neutralized using 1.0 M hydrochloric acid, water was added thereto, followed by extraction with chloroform-methanol. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure, thereby obtaining 1.5 g of 2-{[{2-[(4-tert-butoxy-4-oxobutanoyl)(methyl)amino]ethyl}(pentan-3-yl)amino]methyl}isonicotinic acid.

reactant | ethyl 2-{[{2-[(4-tert-butoxy-4-oxobutanoyl)(methyl)amino]ethyl}(pentan-3-yl)amino]methyl}isonicotinate | 1.9 g | C(C)(C)(C)OC(CCC(=O)N(CCN(C(CC)CC)CC=1C=C(C(=O)OCC)C=CN1)C)=O | C25H41N3O5
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
reactant | methanol | 8.0 mL | CO | CH4O
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | water | O | H2O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 2-{[{2-[(4-tert-butoxy-4-oxobutanoyl)(methyl)amino]ethyl}(pentan-3-yl)amino]methyl}isonicotinic acid | 1.5 g | C(C)(C)(C)OC(CCC(=O)N(CCN(C(CC)CC)CC=1C=C(C(=O)O)C=CN1)C)=O | C23H37N3O5
